US05495048
1.0 g of 3,4-dichlorophenyl 4'-bromomethyl-4-biphenylyl ketone, 1.5 ml of N-allylmethylamine and 0.84 g of potassium carbonate in 25 ml of ethanol are heated to boiling under reflux for 4 hours. The mixture is evaporated and the residue is extracted with ether. The extracts are dried over magnesium sulfate and treated with an ethereal hydrogen chloride solution. The precipitated hydrochloride is filtered and dried. 4'-[(Allylmethylamino)methyl]-4-biphenylyl 3,4-dichlorphenyl ketone hydrochloride, m.p. 160° C., is obtained.

reactant | 3,4-dichlorophenyl 4'-bromomethyl-4-biphenylyl ketone | 1.0 g | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)C1=CC(=C(C=C1)Cl)Cl | C20H13BrCl2O
reactant | N-allylmethylamine | 1.5 ml | C(C=C)CN | C4H9N
reactant | potassium carbonate | 0.84 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4'-[(Allylmethylamino)methyl]-4-biphenylyl 3,4-dichlorphenyl ketone hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CNCCC=C | InChI=1S/C24H21Cl2NO.ClH/c1-2-3-14-27-16-17-4-6-18(7-5-17)19-8-10-20(11-9-19)24(28)21-12-13-22(25)23(26)15-21;/h2,4-13,15,27H,1,3,14,16H2;1H
